US07538112B2
Step 7: Ethyl 8-(benzyloxy)-6-bromo-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate
To a mixture of ethyl 8-(benzyloxy)-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (8.0 g, 18.9 mmol) and sodium bicarbonate (4.8 g, 56.8 mmol) in dichloromethane (100 mL) at room temperature, a solution of bromine (3.5 g, 21.7 mmol) in dichloromethane (30 mL) was added dropwise. The reaction mixture was stirred at room temperature for 30 minutes, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with a hexanes and ethyl acetate gradient to provide the titled product.

reactant | ethyl 8-(benzyloxy)-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 18.9 mmol, 8.0 g | C(C1=CC=CC=C1)OC=1C(=CN2C1C(N(CC2)CC2=CC=C(C=C2)F)=O)C(=O)OCC | C24H23FN2O4
reactant | sodium bicarbonate | 56.8 mmol, 4.8 g | C([O-])(O)=O.[Na+]
reactant | bromine | 21.7 mmol, 3.5 g | BrBr | Br2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Ethyl 8-(benzyloxy)-6-bromo-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2)CC2=CC=C(C=C2)F)=O)Br)C(=O)OCC | C24H22BrFN2O4
